US08071592B2
(a) 1,1-Dimethylethyl (1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate
A mixture of [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde (as the methyl hemiacetal) (3.807 g, 17.463 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (3.493 g, 17.463 mmol) in chloroform (100 ml) and MeOH (5 ml) was stirred for 1 h before addition of NaBH(OAc)3 (11.11 g, 52.39 mmol). The reaction was stirred for 0.5 h before addition of water (100 ml) and sat. aq NaHCO3 (100 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-10% MeOH/DCM gradient to provide the desired compound (5.453 g, 78%).

reactant | [7-(methoxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]acetaldehyde | COC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H10N2O3
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 17.463 mmol, 3.493 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 52.39 mmol, 11.11 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 1,1-Dimethylethyl (1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate | 5.453 g, 78% | COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H30N4O4
